US08017775B2
8-Amino-3,4-difluorobenzo[c]chromen-6-one (Reference Compound No. 1-2-(4))
3,4-Difluoro-8-nitrobenzo[c]chromen-6-one (Reference Compound No. 1-2-(3), g, 13.5 mmol) was dissolved in 1,4-dioxane (300 mL), then 5% palladium on charcoal (375 mg) was added thereto, and then the reaction mixture was stirred under hydrogen atmosphere (3 kgf/cm2) at room temperature for 4 days. After the mixture was filtered, the filtrate was removed under reduced pressure. 1,4-Dioxane was added to the obtained residue, and then filtered to give the titled reference compound (2.44 g) as an orange solid. (Yield 73%)

reactant | 3,4-Difluoro-8-nitrobenzo[c]chromen-6-one | FC1=CC=C2C3=C(C(OC2=C1F)=O)C=C(C=C3)[N+](=O)[O-] | C13H5F2NO4
solvent | 1,4-dioxane | 300 mL | O1CCOCC1 | C4H8O2
catalyst | palladium on charcoal | 375 mg | [Pd] | Pd
product | 8-Amino-3,4-difluorobenzo[c]chromen-6-one | 2.44 g, Yield 73% | NC=1C=CC2=C(C(OC3=C(C(=CC=C23)F)F)=O)C1 | C13H7F2NO2
